US07314880B2
Glacial acetic acid (0.635 mL, 11.1 mmol) was added to a solution of 4-[(R)-((2S,5R)-2,5-dimethyl-1-piperazinyl)-(3-hydroxyphenyl)methyl]-N,N-diethylbenzamide (1.98 g, 5 mmol) and 4-carboxybenzaldehyde (1.50 g, 10 mmol) in anhydrous tetrahydrofuran (35 mL. While stirring briskly, sodium triacetoxyborohydride (2.12 g, 10 mmol) was added in 50-100 mg portions, allowing effervescence to subside after each addition. The reaction was monitored for absence of starting material by HPLC. After stirring at room temperature for 16 hours, more 4-carboxybenzaldehyde (0.75 g, 5 mmol), acetic acid (0.318 mL, 5 mmol), and sodium triacetoxyborohydride (1.06 g, 5 mmol) was added. After stirring an additional 4 hours, the reaction mixture was concentrated under reduced pressure and the residue was partitioned between ethyl acetate (50 mL) and 3 M hydrochloric acid (10 mL). The layers were separated and the organic layer was extracted again with 3 M hydrochloric acid (5×10 mL). The aqueous solution was adjusted to pH 4.5-5 with saturated aqueous sodium carbonate solution and extracted with methylene chloride (3×50 mL). The combined organic extracts were dried over anhydrous sodium sulfate and the solvent was removed under reduced pressure to yield 4-{(2R, 5S)-4-[(R)-(4-diethylcarbamoylphenyl)(3-hydroxyphenyl)methyl]-2,5-dimethyl-1-piperazinyl-methyl}benzoic acid as a brittle white foam (2.34 g). The product showed a single peak on HPLC (Zorbax RX-C8, 4.6 mm×25 cm, isocratic 40% 0.01 M NH4OAc in MeOH, 3 min; linear gradient to 100% MeOH, 45 min; isocratic MeOH, 5 min; 1.0 mL/min; λobs=210 nm, Rt=13.75 min).

reactant | acetic acid | 11.1 mmol, 0.635 mL | C(C)(=O)O | C2H4O2
reactant | 4-[(R)-((2S,5R)-2,5-dimethyl-1-piperazinyl)-(3-hydroxyphenyl)methyl]-N,N-diethylbenzamide | 5 mmol, 1.98 g | C[C@@H]1N(C[C@H](NC1)C)[C@H](C1=CC=C(C(=O)N(CC)CC)C=C1)C1=CC(=CC=C1)O | C24H33N3O2
reactant | 4-carboxybenzaldehyde | 10 mmol, 1.50 g | C(=O)(O)C1=CC=C(C=O)C=C1 | C8H6O3
reactant | sodium triacetoxyborohydride | 10 mmol, 2.12 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 4-carboxybenzaldehyde | 5 mmol, 0.75 g | C(=O)(O)C1=CC=C(C=O)C=C1 | C8H6O3
reactant | acetic acid | 5 mmol, 0.318 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 5 mmol, 1.06 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-{(2R, 5S)-4-[(R)-(4-diethylcarbamoylphenyl)(3-hydroxyphenyl)methyl]-2,5-dimethyl-1-piperazinyl-methyl}benzoic acid | 2.34 g | C(C)N(C(=O)C1=CC=C(C=C1)[C@@H](N1C[C@H](N(C[C@@H]1C)CC1=CC=C(C(=O)O)C=C1)C)C1=CC(=CC=C1)O)CC | C32H39N3O4
